US05231102
c) Cis-2-carboxy-5,7-dichloro-4-methoxycarbonyl-1,2,3,4-tetrahydroquinoline
2-Carboxy-5,7-dichloro-4-methoxycarbonylquinoline (4.8 g) was dissolved in methanol (300 ml) and platinum oxide (0.48 g) was suspended in the solution. Rapid stirring under one atmosphere of hydrogen at room temperature for 75 minutes, followed by filtration and evaporation gave a crude product which was purified by chromatography on silica gel with 2.5% methanol, 0.5% acetic acid and 97% dichloromethane as eluent to give the title compound as a colourless solid (1.3 g, m.p. 154°-156° C.); δ (360 MHz, DMSO) 2.23 (1H, ddd, J=13.9, 7.1 and 5.3 Hz, CHACHBHCCHD), 2.66 (1H, dt, J=13.9 and 4.0 Hz, CHACHBHCCHD), 3.57 (3H, s, CH3), 3.86 (1H, dd, J=7.1 and 4.0 Hz, CHACHBHCCHD), 3.91 (1H, broad multiplet, CHACHBHCCHD), 5.74 (1H, broad s, NH), 6.56 (1H, d, J=1.9 Hz, 6-H or 8-H), 6.58 (1H, d, J=1.9 Hz, 6-H or 8-H); m/e 303 (M+) 198 (100%, M-H, CO2H and CO2Me); Found: C, 47.62; H, 3.60; N, 4.66. C12H11Cl2NO4 requires C, 47.39; H, 3.65; N, 4.61%.

reactant | 2-Carboxy-5,7-dichloro-4-methoxycarbonylquinoline | 4.8 g | C(=O)(O)C1=NC2=CC(=CC(=C2C(=C1)C(=O)OC)Cl)Cl | C12H7Cl2NO4
reactant | hydrogen | [H][H] | H2
solvent | methanol | 300 ml | CO | CH4O
catalyst | platinum oxide | 0.48 g | [Pt]=O
product | Cis-2-carboxy-5,7-dichloro-4-methoxycarbonyl-1,2,3,4-tetrahydroquinoline | 1.3 g | C(=O)(O)[C@@H]1NC2=CC(=CC(=C2[C@@H](C1)C(=O)OC)Cl)Cl | C12H11Cl2NO4
